US07829580B2
(Z)-1-[2-Cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-3-{[1-(ethoxycarbonylmethyl)-1H-pyrazol-3-yl]methylidene}-4-sulfanylpiperidine hydrochloride (Exemplification Compound No. 4-15)
(Z)-4-(Acetylsulfanyl)-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-3-{[1-(ethoxycarbonylmethyl)-1H-pyrazol-3-yl]methylidene}piperidine hydrochloride (0.80 g) was treated with hydrogen chloride in a similar manner to that described in Example 133, and the product was purified by preparative HPLC to afford the free base of the title compound (0.31 g) as a pale yellow foam, which was treated with 4N hydrogen chloride dioxane solution to afford the title compound (0.38 g, yield: 51%) as a pale yellow foam.

reactant | (Z)-4-(Acetylsulfanyl)-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-3-{[1-(ethoxycarbonylmethyl)-1H-pyrazol-3-yl]methylidene}piperidine hydrochloride | 0.80 g | Cl.C(C)(=O)SC1\C(\CN(CC1)C(C(=O)C1CC1)C1=C(C=CC=C1)F)=C/C1=NN(C=C1)CC(=O)OCC
reactant | hydrogen chloride | Cl | ClH
product | (Z)-1-[2-Cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-3-{[1-(ethoxycarbonylmethyl)-1H-pyrazol-3-yl]methylidene}-4-sulfanylpiperidine hydrochloride | 0.31 g | Cl.C1(CC1)C(C(C1=C(C=CC=C1)F)N1C/C(/C(CC1)S)=C/C1=NN(C=C1)CC(=O)OCC)=O | InChI=1S/C24H28FN3O3S.ClH/c1-2-31-22(29)15-28-12-9-18(26-28)13-17-14-27(11-10-21(17)32)23(24(30)16-7-8-16)19-5-3-4-6-20(19)25;/h3-6,9,12-13,16,21,23,32H,2,7-8,10-11,14-15H2,1H3;1H/b17-13-;
